US06384065B1
In 6 ml of methylene chloride were dissolved 0.30 g of (3R)-8-(4-isopropylphenoxy)-1-thia-4-azaspiro[4.5]decane-3-carboxylic acid and 0.47 ml of triethylamine. After adding 0.18 g of 1H-2-pyrrolecarbonyl chloride at 0-5° C., the resulting mixture was stirred at ambient temperature for 24 hours. The reaction mixture was poured into ice water, pH was adjusted to 2.0 with 2 mol/L hydrochloric acid, and the organic layer was separated. The organic layer thus obtained was washed successively with water and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. After purifying the residue by column chromatography [eluent: chloroform:ethanol=200:1], isopropyl ether was added and the deposited crystal was collected by filtration. Thus, 0.14 g of (3R)-8-(4-isopropylphenoxy)-4-(1H-2-pyrrolylcarbonyl)-1-thia-4-azaspiro[4.5]decane-3-carboxylic acid was obtained as a yellow crystalline product.

reactant | (3R)-8-(4-isopropylphenoxy)-1-thia-4-azaspiro[4.5]decane-3-carboxylic acid | 0.30 g | C(C)(C)C1=CC=C(OC2CCC3(N[C@@H](CS3)C(=O)O)CC2)C=C1 | C18H25NO3S
reactant | triethylamine | 0.47 ml | C(C)N(CC)CC | C6H15N
reactant | 1H-2-pyrrolecarbonyl chloride | 0.18 g | N1C(=CC=C1)C(=O)Cl | C5H4ClNO
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | (3R)-8-(4-isopropylphenoxy)-4-(1H-2-pyrrolylcarbonyl)-1-thia-4-azaspiro[4.5]decane-3-carboxylic acid | 0.14 g | C(C)(C)C1=CC=C(OC2CCC3(N([C@@H](CS3)C(=O)O)C(=O)C=3NC=CC3)CC2)C=C1 | C23H28N2O4S
